US06388146B1
First, 100 ml of ethanol containing 4.91 g of 4-(trans-4-pentylcyclohexyl)phenylboronic acid dissolved therein, 100 ml of benzene containing 10.0 g of 2-trifluoromethyl-4-bromoaniline, 41.7 ml of a sodium carbonate aqueous solution with a concentration of 2 mol/l, and 1.20 g of tetrakis(triphenylphosphine)palladium(0) were put in an argon-replaced 300 ml flask, and stirred under reflux for six hours. After the reaction, water and ether were added to the reaction solution for extraction. The resultant ether layer was washed with a saturated brine and dried with sodium sulfate. The solvent was then distilled off. The residue was purified by silica gel column chromatography (eluent:hexane/toluene=4/1), to obtain 14.82 g (Y: 91.3%) of 4-amino-4′-(trans-4-pentylcyclohexyl)-3-trifluoromethylbiphenyl. The purity of the resultant compound was 99.2% as measured by GC.

reactant | ethanol | 100 ml, 4.91 g | C(C)O | C2H6O
reactant | 4-(trans-4-pentylcyclohexyl)phenylboronic acid | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)B(O)O | C17H27BO2
reactant | 2-trifluoromethyl-4-bromoaniline | FC(C1=C(N)C=CC(=C1)Br)(F)F | C7H5BrF3N
reactant | sodium carbonate | 41.7 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | benzene | 100 ml, 10.0 g | C1=CC=CC=C1 | C6H6
product | 4-amino-4′-(trans-4-pentylcyclohexyl)-3-trifluoromethylbiphenyl | 14.82 g, 91.3% | NC1=C(C=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)C(F)(F)F | C24H30F3N
